US05489606
(2R*,3R*)-2-(2,4-Difluorophenyl)-3-[(3-hydroxypropyl)thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol
Following a procedure similar to that described in Example 1, but using 50 mg of (2R*,3R*)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane [prepared as described in Chem. Pharm. Bull., 38, 2476 (1990), Oida et al.] and 54 mg of 3-mercaptopropanol, 42 mg of the title compound, melting at 119°-120° C. (after recrystallization from a mixture of ethyl acetate and benzene), were obtained.

reactant | (2R*,3R*)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane | 50 mg | FC1=C(C=CC(=C1)F)[C@@]1(O[C@@H]1C)CN1N=CN=C1 | C12H11F2N3O
reactant | 3-mercaptopropanol | 54 mg | SCCCO | C3H8OS
product | (2R*,3R*)-2-(2,4-Difluorophenyl)-3-[(3-hydroxypropyl)thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 42 mg | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)SCCCO)O | C15H19F2N3O2S
